US08859588B2
(2S,3′R)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester
A suspension of 3-(3S)-(Toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (4.51 g, 13.2 mmol), (S)-(+)-2-methylpyrrolidine (1.35 g, 15.84 mmol), and K2CO3 (4.01 g, 29.04 mmol) in acetonitrile (44 mL) was heated to 80° C. for 20 h and then added additional (S)-(+)-2-Methylpyrrolidine (834 mg, 9.79 mmol), and continued heating for 20 h. Removed from heating and concentrated to provide a residue which was taken up with H2O (100 mL) and extracted with CH2Cl2 (2×100 mL). Dried the organics over K2CO3, filtered and concentrated to provide a crude oil which was purified by flash column chromatography (0 to 5% MeOH/CH2Cl2) to provide 2.51 g (75% yield) of the title compound as a solid.

reactant | 3-(3S)-(Toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 13.2 mmol, 4.51 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H23NO5S
reactant | (S)-(+)-2-methylpyrrolidine | 15.84 mmol, 1.35 g | C[C@@H]1NCCC1 | C5H11N
reactant | K2CO3 | 29.04 mmol, 4.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-(+)-2-Methylpyrrolidine | 9.79 mmol, 834 mg | C[C@@H]1NCCC1 | C5H11N
reactant | H2O | 100 mL | O | H2O
solvent | acetonitrile | 44 mL | C(C)#N | C2H3N
product | (2S,3′R)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester | 2.51 g, 75% yield | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N1[C@H](CCC1)C | C14H26N2O2
